US08957203B2
A solution of 3-(benzyl(methyl)amino)-6-methoxyisoquinolin-1-ol (1.8 g, 6.12 mmol) in POCl3 (10 mL) was refluxed for 4 h. After concentration, the residue was taken into a mixture of 100 mL of DCM and 50 mL of water, cooled to 0° C., neutralized with 3 N NaOH, dried over MgSO4, and concentrated to give N-benzyl-1-chloro-6-methoxy-N-methylisoquinolin-3-amine (1.44 g, 4.60 mmol, 75% yield) as a yellow solid. MS: MS m/z 313.15(M++1).

reactant | 3-(benzyl(methyl)amino)-6-methoxyisoquinolin-1-ol | 6.12 mmol, 1.8 g | C(C1=CC=CC=C1)N(C=1N=C(C2=CC=C(C=C2C1)OC)O)C | C18H18N2O2
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | N-benzyl-1-chloro-6-methoxy-N-methylisoquinolin-3-amine | 4.60 mmol, 1.44 g, 75% yield | C(C1=CC=CC=C1)N(C=1N=C(C2=CC=C(C=C2C1)OC)Cl)C | C18H17ClN2O
